US04925864
3.6 g (0.01 mol) of 2,2-dimethylpropionyl bromide 2,4,6-trichlorophenylhydrazone and 0.6 g (0.01 mol) of N-methylcyanamide were added to 50 ml of toluene. Then, 1.1 g (0.011 mol) of triethylamine was dropwise added under stirring at room temperature. After the dropwise addition, stirring was continued at the same temperature for further 1 hour. After washing the reaction mixture with water, the toluene layer was dried, and the solvent was distilled off. The residue was purified by silica gel column chromatography to obtain 2.8 g (yield: 85%) of 3-(tert-butyl)-5-(N-methylamino)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole as power having a melting point of from 165° to 166° C.

reactant | 2,2-dimethylpropionyl bromide 2,4,6-trichlorophenylhydrazone | 0.01 mol, 3.6 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN=C(C(C)(C)C)Br | C11H12BrCl3N2
reactant | N-methylcyanamide | 0.01 mol, 0.6 g | CNC#N | C2H4N2
reactant | triethylamine | 0.011 mol, 1.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(tert-butyl)-5-(N-methylamino)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole | 2.8 g, yield: 85% | C(C)(C)(C)C1=NN(C(=N1)NC)C1=C(C=C(C=C1Cl)Cl)Cl | C13H15Cl3N4
